US07968587B2
(S)-(7-Formyl-4-pyridin-2-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester
Dissolve (S)-(7-cyano-4-pyridin-2-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester (200 mg, 0.53 mmol) in 88% formic acid (10 ml) and water (1 mL). Add aluminum-nickel catalyst (50/50 wt %) and heat at 90° C. for 24 h. Add water (1 mL) and heat for an additional 24 h. After cooling to room temperature, add methanol and filter off the catalyst through Celite®. Dilute with ethyl acetate and basify to pH=10 using 10% potassium carbonate. Separate the phases and wash the organic phase with 10% potassium carbonate. Dry the organic portion over anhydrous sodium sulfate, filter, and concentrate to obtain the title compound as an orange oil (181 mg, 91%). Use the crude product without further manipulation. MS (m/z): 378.2 (M+1).

reactant | (S)-(7-cyano-4-pyridin-2-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester | 0.53 mmol, 200 mg | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NC=CC=C2)C1)=O | C22H22N4O2
reactant | methanol | CO | CH4O
solvent | formic acid | 10 ml | C(=O)O | CH2O2
solvent | water | 1 mL | O | H2O
catalyst | aluminum-nickel | [Ni].[Al]
solvent | water | 1 mL | O | H2O
product | (S)-(7-Formyl-4-pyridin-2-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester | 181 mg, 91% | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C=O)CC2=NC=CC=C2)C1)=O | C22H23N3O3
